US07576222B2
Step 1: Synthesis of N-(tert-butoxycarbonyl)-1-cyclobutylmethyl-D-tryptophan
In a 20 mL vial, NaH (60% in mineral oil) (0.092 g, 2.30 mmol) was added to a solution of N-(tert-butoxycarbonyl)-D-tryptophan (0.200 g, 0.657 mmol) in anhydrous N,N-dimethylformamide (4 mL) at 0° C. The reaction mixture was placed in a shaker for 20 min. at 0° C. (Bromomethyl)cyclobutane (0.074 mL, 0.657 mmol) was added to the solution and allowed to react for 10 hours at 0° C. The reaction mixture was quenched with H2O and acidified with 1M NaHSO4 until pH=3. The solution was extracted with CH2Cl2, washed with brine, dried over Na2SO4, and concentrated to give the title compound.

reactant | NaH | 2.30 mmol, 0.092 g | [H-].[Na+]
reactant | N-(tert-butoxycarbonyl)-D-tryptophan | 0.657 mmol, 0.200 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | (Bromomethyl)cyclobutane | 0.657 mmol, 0.074 mL | BrCC1CCC1 | C5H9Br
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-(tert-butoxycarbonyl)-1-cyclobutylmethyl-D-tryptophan | C(C)(C)(C)OC(=O)N[C@H](CC1=CN(C2=CC=CC=C12)CC1CCC1)C(=O)O | C21H28N2O4
